US09353107B2
Step-iii: (S)-1-(4-(5-(3-(1-(3-methylbenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazin-1-yl)propan-2-ol
Using similar reaction conditions as described in step-i of example-82A, 3-(1-(3-methylbenzyl)-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride (120 mg. 0.187 mmol) was alkylated using (S)-2-methyloxirane (33 mg, 0.562 mmol), DIPEA (145 mg, 1.124 mmol) and ethanol (5 mL) to get 100 mg (crude) of the titled compound. MS: m/z=662.3 (M+1).

reactant | 3-(1-(3-methylbenzyl)-1H-pyrazol-4-yl)-5-(6-(piperazin-1-yl)pyridin-3-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine hydrochloride | 0.187 mmol, 120 mg | Cl.CC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=NC(=CC3)N3CCNCC3)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1
reactant | (S)-2-methyloxirane | 0.562 mmol, 33 mg | C[C@@H]1OC1 | C3H6O
reactant | DIPEA | 1.124 mmol, 145 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (S)-1-(4-(5-(3-(1-(3-methylbenzyl)-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)pyridin-2-yl)piperazin-1-yl)propan-2-ol | CC=1C=C(CN2N=CC(=C2)C2=CN(C3=NC=C(C=C32)C=3C=CC(=NC3)N3CCN(CC3)C[C@H](C)O)S(=O)(=O)C3=CC=C(C)C=C3)C=CC1 | C37H39N7O3S
